Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
arm pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ male with a PMH of chronic knee pain
(not on opioids), depression, GERD, and HTN who presents with
right elbow pain and swelling. The pt reports that every year 
for
the past ___ years, during the month of ___ only, he gets
itchy arms. Last year a dermatologist recommended a moisturizer
and a steroid cream which helped. This year, he used the same
moisturizer and steroid cream. However he scratched himself so
much that he broke the skin in a small area of his right elbow
about 1.5 weeks ago. Initially the elbow was mildly sore. 
However
on ___, he noticed swelling in the area. The swelling
increased. He saw his PCP on ___ for a foot burn and
mentioned his elbow at that time. She started Keflex. However 
the
swelling increased and he began noticing erythema as well as
tenderness, so he came in for further evaluation. He denies
fevers.

In terms of the foot burn, the pt was walking outside while
barbequing and stepped directly on a piece of hot coal on his
bare foot. He reports that his foot pain has been improving over
the past two days.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
PAST MEDICAL HISTORY:
Chronic knee pain
Depression
Acid reflux
HTN

PAST SURGICAL HISTORY:
Left knee replacement
Scafoid fracture
Right torn meniscus
Right shoulder surgery
 
Social History:
___
Family History:
Nephew and uncle have depression
Mother has anxiety
 
Physical Exam:
hysical Exam
Gen: Well appearing, well groomed, no apparent distress
HENT: NCAT. Mucus membranes moist. No oral lesions or ulcer.
Eyes: Conjuctiva clear. No periorbital edema.
CV: RRR. No m/r/g.
Resp: Lungs CTAB. Good air movement. Breathing non-labored.
Abd: Soft, non-tender, non-distended
GU: No suprapubic or CVA tenderness
Ext: Erythema over the right elbow. Palpable right elbow bursa.
Minimal tenderness. Full ROM with no pain. Small round burn on
base of left foot with clean base.
Skin: No rashes or skin lesions except as noted above.
Neuro: Face symmetric. Ox4. Normally conversant. Moves all four
extremities.
Psych: Normal tone and affect

Exam on discharge:
Unchanged other than right arm:Faint erythema over elbow well 
within demarkated lines. Palpable right elbow bursa. Minimal 
tenderness. Full ROM with no joint tenderness. 

 
Pertinent Results:
___ 06:55AM BLOOD WBC: 7.0 RBC: 4.37* Hgb: 13.8 Hct: 40.5
MCV: 93 MCH: 31.6 MCHC: 34.1 RDW: 11.7 RDWSD: 39.___ 
___ 06:55AM BLOOD Glucose: 97 UreaN: 12 Creat: 0.8 Na: 141
K: 4.3 Cl: 105 HCO3: 24 AnGap: 12 
___ 06:55AM BLOOD Vanco: 34.5* (not true trough- taken
immediately after dose)

___ 8:24 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

Blood culture x2=  NGTD

___: Elbow xray
IMPRESSION: 
Olecranon swelling.  No definite fracture but questionable 
finding along the
sublime tubercle of the medial proximal ulna.  No joint effusion 
identified.
 
Brief Hospital Course:
Mr. ___ is a ___ male with a PMH of depression, acid 
reflux, and HTN who presents with right elbow cellulitis and a 
left foot burn. He was treated with IV vancomycin with 
improvement in erythema, transitioned to oral antibiotics and 
discharged home. 

# Right elbow cellulitis
# Bursitis
The pt presents with a right elbow cellulitis due to a break in 
the skin from itching the area. He has an underlying bursitis 
though it is unclear if the bursa is infected vs reactive. There 
is no sign of septic joint (no pain with movement, full ROM, no 
joint tenderness). There is also no evidence of joint effusion 
on xray. There is a ?fracture versus normal variant- the patient 
has no joint pain or pain on joint palpation. The patient was 
given IV vancomycin the ED which was continued on admission. His 
exam improved and he was discharged on oral Bactrim and Keflex 
to complete a 7 day course. He has a follow up with his PCP on 
___ to confirm cellulitis/bursitis has resolved.

# Atopic dermatitis
Seasonal atopic dermatitis.
- C/w moisturizer
- Hold steroid cream while infected
# Left foot burn:
___ stepping on a hot coal. No sign of infection. He was using 
silvadene at home.
- C/w local wound care

# Hypertension: C/w home amlodipine and monitor BP.

# Depression: C/w home Welbutrin and escitalopram. Doses
confirmed with ___.

# Acid reflux: C/w home omeprazole.

Transitional issues:
- Please asses for resolution of cellulitis/bursitis at follow 
up

Contacts/HCP/Surrogate and Communication: 
Wife ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Albuterol Inhaler 1 PUFF IH Q6H:PRN asthma 
3. BuPROPion XL (Once Daily) 150 mg PO DAILY 
4. Escitalopram Oxalate 20 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth Q6hrs Disp #*20 
Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth Q12hrs Disp #*12 Tablet Refills:*0 
3.  Albuterol Inhaler 1 PUFF IH Q6H:PRN asthma  
4.  amLODIPine 2.5 mg PO DAILY  
5.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
6.  Escitalopram Oxalate 20 mg PO DAILY  
7.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cellulitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your admission to 
___. You were admitted with an infection of the skin 
surrounding your elbow. You were given intravenous antibiotics 
with improvement in your infection. You will be discharged on 
oral antibiotics to complete a total of 7 days of treatment.

Please follow up with your primary care doctor next week to make 
sure your cellulitis has improved.

We wish you the best,
Your ___ Care team
 
Followup Instructions:
___